US04357342
An ice-cold solution of benzyl 1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate (20 mg, 0.077 mmol) in methylene chloride (2 ml) is treated with p-nitrobenzenesulfonic anhydride (37.3 mg, 0.096 mmol) and N,N-diisopropylethylamine (18.3 μl, 0.015 mmol). After stirring in the cold for 20 minutes, the solution is diluted with cold methylene chloride (1 ml) and cold 0.1 M pH 7 phosphate buffer (2 ml) and shaken. The organic phase is separated, washed with cold 0.1 M pH 7 phosphate buffer (2×2 ml), water and brine, dried with magnesium sulfate, and filtered. The filtrate is diluted with cold methanol (0.5 ml) and quickly evaporated under vacuum to give a solid. The crude product is triturated with cold methanol and dried under vacuum to provide benzyl 3-(p-nitrobenzenesulfonyloxy)-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate (26 mg) as a white solid: mp 86°-88°; IR (CH2Cl2) 1794, 1723, 1521, and 1344 cm-1 ; UV (CHCl3) 257 (ε10,600) and 280 (ε7,600) nm; NMR (CDCl3) δ3.08 (dd, 1, J=3.6 and 17, H6β), 3.25 (dd, 1, J=8.8 and 18, H3a), 3.35 (dd, 1, J=9.8 and 18, H4b), 3.59 (dd, 1, J=5.4 and 17, H6α), 4.26(m,1,H5), 5.10 (ABq, 2, J=21.2, CH2 φ), 7.32 (s, 5, C6H5), 8.03 and 8.22 (two d's, 4, J=9.3, NO2C6H4).

reactant | benzyl 1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate | 0.077 mmol, 20 mg | N12C(C(CC2CC1=O)=O)C(=O)OCC1=CC=CC=C1 | C14H13NO4
reactant | p-nitrobenzenesulfonic anhydride | 0.096 mmol, 37.3 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H8N2O9S2
reactant | N,N-diisopropylethylamine | 0.015 mmol, 18.3 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | phosphate | 0.1 M, 2 ml, pH 7 | P(=O)([O-])([O-])[O-]
product | benzyl 3-(p-nitrobenzenesulfonyloxy)-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | 26 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)OC1=C(N2C(CC2C1)=O)C(=O)OCC1=CC=CC=C1 | C20H16N2O8S
